US05306728
0.36 g of 2-[3-(3-thienyl)phenoxy]ethoxyacetic acid was dissolved in 7 ml of tetrahydrofuran, and under ice cooling, 110 μl of methyl chloroformate and 200 μl of triethylamine were added. After the mixture was stirred with cooling for 30 minutes, 178 μl of cyclopropylamine was added. The mixture was stirred at room temperature for 1 hour, and then ethyl ether and water were added. The organic layer separated was worked up in a customary manner to give 0.31 g of N-cyclopropyl-2-[3(3-thienyl)phenoxy]ethoxyacetamide as a pale yellow oil.

reactant | 2-[3-(3-thienyl)phenoxy]ethoxyacetic acid | 0.36 g | S1C=C(C=C1)C=1C=C(OCCOCC(=O)O)C=CC1 | C14H14O4S
reactant | methyl chloroformate | 110 μl | ClC(=O)OC | C2H3ClO2
reactant | triethylamine | 200 μl | C(C)N(CC)CC | C6H15N
reactant | cyclopropylamine | 178 μl | C1(CC1)N | C3H7N
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-cyclopropyl-2-[3(3-thienyl)phenoxy]ethoxyacetamide | 0.31 g | C1(CC1)NC(COCCOC1=CC(=CC=C1)C1=CSC=C1)=O | C17H19NO3S
